US07169780B2
Step 5: Benzyl-(2S,4S)-2-[amino(hydroxyimino)methyl]-4-fluoropyrrolidine-1-carboxylate
Benzyl-(2S,4S)-2-cyano-4-fluoropyrrolidine-1-carboxylate dissolved in absolute ethanol was treated with triethyl amine (1.5eq.) and hydroxylamine hydrochloride (1.3 eq.).

reactant | Benzyl-(2S,4S)-2-cyano-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C13H13FN2O2
reactant | triethyl amine | 1.5eq. | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 1.3 eq. | Cl.NO
solvent | ethanol | C(C)O | C2H6O
product | Benzyl-(2S,4S)-2-[amino(hydroxyimino)methyl]-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C(=NO)N | C13H16FN3O3
